US04310693
A mixture composed of 18.0 g of 6-hydroxy-2-methylbenzoxazole synthesized in Synthesis Example 1, 36.6 g of 1-bromohexadecane, 24.0 g of potassium carbonate and 120 ml of N,N-dimethylformamide was stirred at 90° C. for 4.5 hours. Solids were removed from the reacting solution by filtration, and the filtrate was poured into 500 ml of methanol. The crystals formed were separated by filtration to obtain 45.0 g of 6-hexadecyloxy-2-methylbenzoxazole.

reactant | 6-hydroxy-2-methylbenzoxazole | 18.0 g | OC1=CC2=C(N=C(O2)C)C=C1 | C8H7NO2
reactant | 1-bromohexadecane | 36.6 g | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | potassium carbonate | 24.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 6-hexadecyloxy-2-methylbenzoxazole | 45.0 g | C(CCCCCCCCCCCCCCC)OC1=CC2=C(N=C(O2)C)C=C1 | C24H39NO2
